US08008298B2
7-Iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine 0.057 gm, 0.1 mM was placed in an oven dried flask and 1 ml anhydrous THF was added. The flask was chilled in an Acetone-dry ice slurry and evacuated and refilled 3 times with nitrogen. Via syringe 0.065 ml of 2.13M Buli in hexane solution (0.14 mM, 1.4 eq) was added and the now yellow mixture was stirred for 30 seconds then phenylisocyanate, 0.027 ml, 0.25 mM, 2.5 eq.) was added. The mixture was stirred for 30 minutes, removed from the dry ice-acetone bath and immediately quenched with saturated aqueous ammonium chloride. Ethyl acetate was added and insoluble material removed by filtration and discarded. The mixture was separated and the aqueous layer was extracted two times with ethyl acetate. The organic layers were rinsed three times with 0.1M HCl and dried over magnesium sulfate. The solution was concentrated and purified on a silica gel column (ethyl acetate/hexane gradient). The product was recrystallized from acetonitrile and dried at 2 torr in a 60° C. vacuum oven overnight to give 2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid phenylamide. (M+H)+=405.

reactant | 7-Iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.1 mM, 0.057 gm | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | hexane | 0.14 mM, 1.4 eq | CCCCCC | C6H14
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C22H20N4O4
